US05620989
Lithium aluminium hydride (1M in tetrahydrofuran; 10.6 ml) was added to a cooled (0° C.) suspension of (±)-2-phenylproline hydrochloride (0.85 g) and the mixture heated at reflux for 1.5 h. After cooling to 0° C., water (1 ml) was added followed by 2M NaOH (1 ml) and water (2 ml). The reaction mixture was diluted with ethyl acetate (50 ml) then filtered through a pad of Hi-flo and the residue concentrated in vacuo to give (±)-2-phenylprolinol as a yellow oil which solidified on standing. 1H NMR (250 MHz, CDCl3) d 7.42-7.20 (5H, m, ArH), 3.60 (1H, d, J=10.0 Hz, CHHOH), 3.49 (1H, d, J=10.0 Hz, CHHOH), 3.07 (2H, t, J=5.7 Hz, CH2N), 2.43 (2H, br s, OH and NH), 2.19-1.75 (4H, m).

reactant | Lithium aluminium hydride | 1M, 10.6 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (±)-2-phenylproline hydrochloride | 0.85 g | Cl.C1(=CC=CC=C1)[C@@]1(NCCC1)C(=O)O
reactant | water | 1 ml | O | H2O
reactant | NaOH | 2M, 1 ml | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (±)-2-phenylprolinol | C1(=CC=CC=C1)[C@@]1(NCCC1)CO | C11H15NO
